US07335770B2
Synthesis of 2,4,6-Tris-(3-fluoro-4-methoxy-phenoxy)-[1,3,5]triazine (E64)
Cyanuric chloride (0.9207 g, 5 mmol) was dissolved in acetone (20 mL). The solution was cooled to 0-5° C. with an ice bath. To the cooled solution mixture of 3-fluoro-4-methoxy-phenol (0.7142 g, 5 mmol) in acetone (20 mL), was added dropwise 2.5 N NaOH (20 mL, 50 mmol) and water (5 mL). The reaction mixture was allowed to stir at 0-5° C. for 1 hour under nitrogen. The reaction mixture was diluted with cold water (20 mL) and the resulting solid was collected by vacuum filtration. The white solid was dried overnight under vacuum to give 303 mg of E64 (15% yield), mp>210° C.; HPLC: Inertsil ODS-3V C18, 40:30:30 [KH2PO4 (0.01M, pH 3.2): CH3OH: CH3CN], 264 nm, Rt 3.5 min, 99.7% purity; MS (TOF MS ES+): m/z 502 (M+H, 100), 406 (61.3), 392 (44.1).

reactant | Cyanuric chloride | 5 mmol, 0.9207 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 3-fluoro-4-methoxy-phenol | 5 mmol, 0.7142 g | FC=1C=C(C=CC1OC)O | C7H7FO2
reactant | NaOH | 50 mmol, 2.5 N, 20 mL | [OH-].[Na+]
reactant | KH2PO4 | 0.01M, pH 3.2 | OP(=O)(O)[O-].[K+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 20 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | CH3OH | CO | CH4O
product | 2,4,6-Tris-(3-fluoro-4-methoxy-phenoxy)-[1,3,5]triazine | 15% yield | FC=1C=C(OC2=NC(=NC(=N2)OC2=CC(=C(C=C2)OC)F)OC2=CC(=C(C=C2)OC)F)C=CC1OC | C24H18F3N3O6
